US05352808
0.81 g of 20-formamido-Δ4,17(20) -pregnadien-11β, 21-diol-3-one, 6.4 ml of water and 6.4 ml of methanol were mixed together under an inert gas atmosphere and 0.8 ml of 50% perphthalic acid (obtained from 2 g of phthalic anhydride solubilized at 40° C. over 15 minutes in a mixture of 1 ml of 50% hydrogen peroxide and 2 ml of methanol) were added with stirring at 22°-23° C. Then after 90 minutes of stirring, another 0.8 ml of perphthalic acid was added. After 4 hours, another 0.5 ml of perphthalic acid was added and after 3 hours of stirring, the mixture was cooled to 5° C. The crystals were separated and washed with water and with an aqueous solution of sodium bicarbonate and dried to obtain 0.586 g of the expected product.

reactant | water | 6.4 ml | O | H2O
reactant | perphthalic acid | 0.8 ml | C1=CC=C(C(=C1)C(=O)O)C(=O)OO | C8H6O5
solvent | methanol | 6.4 ml | CO | CH4O
product | phthalic anhydride | 2 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
